US08183262B2
5-Bromo-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
To a solution of commercially available 2-amino-2-methyl-1-propanole (478 mg, 5 mmol) and Et3N (0.75 mL, 5 mmol) in THF (50 mL) at 0° C. was added portionwise added 5-bromo-pyridine-3-sulfonyl chloride [CAS-No. 65001-21-0] (according to J. Org. Chem. 1989, 54(2), 389) (1.28 g, 5 mmol) and the mixture was stirred at 23° C. for 1 h. The reaction is worked up by neutralization with 5% citric acid, extracted with EtOAc, washed with sat. NaHCO3-sol. and brine, dried over Na2SO4, filtered and concentrated to give a light brown solid, which was purified by trituration with heptane/diethyl ether gave the title compound as a white solid (1.25 g, 82%). MS (ISP) 309.2 [(M+H)+], 311.1 [(M+2+H)+]; mp 112° C.

reactant | Et3N | 5 mmol, 0.75 mL | CCN(CC)CC | C6H15N
reactant | 5-bromo-pyridine-3-sulfonyl chloride | 5 mmol, 1.28 g | BrC=1C=C(C=NC1)S(=O)(=O)Cl | C5H3BrClNO2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-Bromo-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 1.25 g, 82% | OCC(C)(C)NS(=O)(=O)C=1C=NC=C(C1)Br | C9H13BrN2O3S
